US06479502B1
3-(4-Benzy-piperidine-1-sulfonyl)-5-phenyl-pentanoic Acid
3-(4-Benzy-piperidine-1-sulfonyl)-5-phenyl-pentanoic acid tert-butyl ester (1.04 g, 2.2 mmol) was taken up in DCM (5 mL) with stirring and cooled to 0° C. TFA (5 mL) was added slowly and the resulting solution placed in the fridge overnight. Solvents evaporated under reduced pressure to give the title compound as a yellow oil (913 mg, Quant). 1H-NMR δ(MeOD) 7.56-7.11 (10H, m), 3.66-3.56 (3H, m), 2.90-2.59 (6H, m), 2.51 (2H, d, J=6.7 Hz), 2.20 (1H, m), 1.90 (1H, m), 1.62-1.47 (3, m) and 1.25-1.11 (2H, m). 13C-NMR δ(MeOD) 174.5, 142.6, 141.7, 130.6, 130.1, 130.0, 129.7, 127.7, 127.4, 58.7, 47.6, 44.2, 39.2, 35.5, 33.9, 33.7, 33.0. IR Vmax (ATR) 2915, 1709, 1451, 1304, 1133, 1041, 937, 746, 698. ESMS=(M+1) 416.0, (M−1) 414.0.

reactant | 3-(4-Benzy-piperidine-1-sulfonyl)-5-phenyl-pentanoic acid tert-butyl ester | 2.2 mmol, 1.04 g | C(C)(C)(C)OC(CC(CCC1=CC=CC=C1)S(=O)(=O)N1CCC(CC1)CC1=CC=CC=C1)=O | C27H37NO4S
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-Benzy-piperidine-1-sulfonyl)-5-phenyl-pentanoic Acid | 913 mg | C(C1=CC=CC=C1)C1CCN(CC1)S(=O)(=O)C(CC(=O)O)CCC1=CC=CC=C1 | C23H29NO4S
